US06265411B1
A solution of 5-fluorooxindole (980 mg, 6.5 mmol), (prepared according to Synthesis 1993, 51), in triethyl orthoformate (25 ml) was stirred and heated at reflux for 8 hours. The volatiles were removed by evaporation and the crude product purified by flash chromatography using petroleum ether/ether 7/3 as eluent to give 5-fluoro-1-diethoxymethyloxindole (637 mg, 40%).

reactant | 5-fluorooxindole | 6.5 mmol, 980 mg | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | triethyl orthoformate | 25 ml | C(OCC)(OCC)OCC | C7H16O3
product | 5-fluoro-1-diethoxymethyloxindole | 637 mg, 40% | FC=1C=C2CC(N(C2=CC1)C(OCC)OCC)=O | C13H16FNO3
